US07429609B2
Furan-2,5-dicarboxylic acid monobenzyl ester
490 mg of 5-formylfuran-2-carboxylic acid benzyl ester was dissolved in 10 mL of acetonitrile, and added with a solution containing 413 mg of sulfamic acid in 5 mL of water. After cooling to 0° C., a solution containing 202 mg of sodium chlorite and 232 mg of potassium dihydrogen phosphate in 5 mL of water was added dropwise. After cooling at this temperature for 30 minutes, sodium thiosulfate aqueous solution was added at 0° C. to stop the reaction, and extracted with a mixture of tetrahydrofuran and ethyl acetate. The organic phase was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was distilled off to afford 520 mg of the title compound as white crystals.

reactant | 5-formylfuran-2-carboxylic acid benzyl ester | 490 mg | C(C1=CC=CC=C1)OC(=O)C=1OC(=CC1)C=O | C13H10O4
reactant | sulfamic acid | 413 mg | S(N)(O)(=O)=O | H3NO3S
reactant | sodium chlorite | 202 mg | Cl(=O)[O-].[Na+]
reactant | potassium dihydrogen phosphate | 232 mg | P(=O)(O)(O)[O-].[K+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | water | 5 mL | O | H2O
solvent | water | 5 mL | O | H2O
product | Furan-2,5-dicarboxylic acid monobenzyl ester | 520 mg | C(C1=CC=CC=C1)OC(=O)C=1OC(=CC1)C(=O)O | C13H10O5
